US07982071B2
Preparation of 3-(3-(cycloheptylmethoxy)phenyl)propan-1-amine
N-(3-(3-(cycloheptylmethoxy)phenyl)propyl)-2,2,2-trifluoroacetamide was deprotected following the method used in Example 10 except that the MeOH:water mixture was 4:1. After the extractive work up, the residue was dissolved in hexanes, filtered through Celite and concentrated under reduced pressure. Example 14 was isolated in pure form without further manipulation. 1H NMR (400 MHz, CDCl3) δ 7.17 (t, J=7.6 Hz, 1H), 6.70-6.76 (m, 3H), 3.71 (d, J=6.8 Hz, 2H), 2.74 (t, J=7.2 Hz, 2H), 2.62 (t, J=8 Hz, 2H), 1.43-2.02 (m, 15H), 1.23-1.33 (m, 2H).

reactant | N-(3-(3-(cycloheptylmethoxy)phenyl)propyl)-2,2,2-trifluoroacetamide | C1(CCCCCC1)COC=1C=C(C=CC1)CCCNC(C(F)(F)F)=O | C19H26F3NO2
reactant | MeOH | CO | CH4O
solvent | water | O | H2O
product | 3-(3-(cycloheptylmethoxy)phenyl)propan-1-amine | C1(CCCCCC1)COC=1C=C(C=CC1)CCCN | C17H27NO
